US06503949B1
Cyclopropyltriphenylphosphonium bromide (10.8 g, 28 mmol) was suspended in dry THF (30 mL) and cooled to −60° C. N-Butyllithium (1.6M in THF, 17 mL, 27 mmol) was added dropwise at −40 to −60° C. The temperature was raised to 20° C. and after 3 hours at this temperature, the reaction mixture was cooled to −60° C. 1,4-Cyclohexane dione mono ethylene ketal (4.0 g, 26 mmol) dissolved in THF (30 mL) was added at −60° C. whereafter the temperature was raised to 20° C. After 16 hours the reaction mixture was diluted with THF (75 mL) filtered through hyflo and concentrated in vacuo. The residue was purified by flash chromatography (4×15 cm column of silica) using heptane and ethyl acetate (4:1) as eluent to give 2.5 g of 8-cyclopropylidene-1,4-dioxa-spiro[4.5]decane (cf Synthetic Communications 21(20), 2015-2023, 1991).

reactant | Cyclopropyltriphenylphosphonium bromide | 28 mmol, 10.8 g | [Br-].C1(CC1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | N-Butyllithium | 27 mmol, 1.6M, 17 mL | [Li+].CCC[CH2-]
reactant | 1,4-Cyclohexane dione mono ethylene ketal | 26 mmol, 4.0 g | C1COC2(CCC(CC2)=O)O1 | C8H12O3
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 75 mL | C1CCOC1 | C4H8O
product | 8-cyclopropylidene-1,4-dioxa-spiro[4.5]decane | 2.5 g | C1(CC1)=C1CCC2(OCCO2)CC1 | C11H16O2
